Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Lipitor
 
Attending: ___.
 
Chief Complaint:
headache and diarrhea

 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Mr. ___ is a ___ y/o male with hx of pituitary
microadenoma, hyperprolactinemia, hypogonadotropic
hypogonadism, anxiety, depression, chronic low back pain and a
recent hospitalization at ___ for HA, fever, and diarrhea who
had returned to his usual state of health prior to abrupt
recurrence of these symptoms two days ago.  He had a recent 
admission to ___ from ___ with similar
symptoms.  During his previous hospitalization in ___, head CT
and MRI were reassuring. LP was performed after abx
administration because of elevated INR; results were
inconclusive. He received abx and acyclovir. HSV came back
negative. Lyme and C diff were negative.  He reported that he 
had
returned to his usual state of health, which is notable for
chronic back pain, prior to recurrence of these symptoms.

In the ED, his BP was in the mid-90s. On the ED team's initial
evaluation: the patient was A&Ox3 and able to answer all
questions appropriately, his neuro exam was reassuring, no neck
stiffness. He does endorse abdominal pain on the right side with
palpation. He received IVF, cipro, flagyl. Stool guaiac was
positive. Labs showed normal WBC 6.7, slight anemia with Hgb
12.1. 

On my evaluation in the ED, he reports that he had sudden onset
of the "exact same symptoms" for which he was recently
hospitalized.  Says that over the course of 60 minutes ___
night (___) from ___ ___ he developed:

# Headache: generalized, was severe, throbbing, without vision
changes or radiation down the neck or back; not worse with
positional changes. He took Tylenol ___ mg), ibuprofen (400 
mg),
and aspirin (365 mg) which did alleviate the pain significantly.
Was ___ before meds; after meds was nearly gone (___).
Currently, HA is a bit worse, ___.  Denies associated vision
changes, double vision, vomiting, gait instability, falls, or
recent head trauma.

# Fevers & chills: Tm ___ yesterday when measured at home prior
to taking meds for HA and then normalized.  Didn't take Tylenol
or NSAIDs this AM because he didn't want to mask the symptoms
when he decided to come to the ED. Endorses associated mild dry
cough. Denies associated sore throat, new joint pains, rashes. 
Says that his chronic back pain was worsened and he was unable 
to
lay on his right side during this time. 

# Exhaustion: just felt tired, more sleepy, gets cold more
easily, and b/l hands hurt a little, and had trouble focusing. 
This is much better today than it was yesterday.  Denies any
associated chest pain, SOB, palpitations, or flushing sensation.

The following day (yesterday) he developed:
# Diarrhea: nearly "nonstop," orange colored thin watery stool 
in
varying quantities throughout the day and night.  This is what
led him to come to the ED.  Hasn't had any BMs since arrival to
ED, which he says feels like a minor miracle.  He endorses
associated RLQ pain.

ROS: Denies any other active or recent issues.  10 systems
reviewed and negative except as noted in HPI above. 

 
Past Medical History:
- pituitary microadenoma, hyperprolactinemia, hypogonadotropic
hypogonadism (per ___ records, diagnosed in ___, medically
managed, sees Endocrinology at ___
- hyperlipidemia
- anxiety
- depression
- insomnia
- low back pain (seen by ___ Pain ___, thought to be likely
L4-L5 or L5-S1 disk herniation, conservatively managed)
- Prior Hospitalizations:
     --___ from ___ for fever, HA, and diarrhea. No
etiology was ultimately identified but symptoms resolved with IV
abx.  Also had unexplained INR elevation to 1.5 the improved 
with
Vit K administration.
 
Social History:
___
___ History:
-Mother: ___ disease
-Father: healthy
-___: 1 sister, 1 half-sister, 1 half-brother; no medical
problems that he knows of

 
Physical Exam:
Physical Exam:
VS: T 99.5 HR 80  BP 91/56   RR 16   pOx 97% RA 
Gen: NAD laying in bed
HEENT: EOMI, PERRL, anicteric sclera, OP clear w/ somewhat dry 
MM
Neck: no JVP/JVD, no carotid bruits, able to touch chin to chest
with no difficulty
Chest: CTAB, normal WOB
Cardiovasc: RR, ___ systolic murmur heard throughtout, loudest 
at
apex, 2+ radial and DP pulses b/l, no peripheral edema
Abd: soft, not distended, +tender to deep palpation in RLQ,
+mildly tender to percussion throughout, not tender to deep
palpation over RUQ, epigastric area, LUQ, or LLQ
GU: no CVA ttp
Extr: WWP
Skin: pale, no rashes
Neuro: AAOx4, clear & fluent speech, face symmetric, tongue
midline, no ptosis, normal strength and coordination in b/l arms
& legs, normal finger-to-nose testing b/l, normal 
Psych: calm, cooperative
 
Pertinent Results:
___ 01:46PM BLOOD WBC-6.7 RBC-4.19* Hgb-12.1* Hct-37.3* 
MCV-89 MCH-28.9 MCHC-32.4 RDW-13.3 RDWSD-43.0 Plt ___
___ 11:20PM BLOOD WBC-5.7 RBC-3.78* Hgb-10.9* Hct-33.9* 
MCV-90 MCH-28.8 MCHC-32.2 RDW-13.2 RDWSD-43.3 Plt ___
___ 06:45AM BLOOD WBC-5.2 RBC-3.58* Hgb-10.2* Hct-32.0* 
MCV-89 MCH-28.5 MCHC-31.9* RDW-13.2 RDWSD-43.3 Plt ___
___ 01:46PM BLOOD Neuts-76* Bands-2 Lymphs-12* Monos-10 
Eos-0 Baso-0 ___ Myelos-0 AbsNeut-5.23 AbsLymp-0.80* 
AbsMono-0.67 AbsEos-0.00* AbsBaso-0.00*
___ 06:45AM BLOOD ___ PTT-29.9 ___
___ 01:46PM BLOOD Glucose-85 UreaN-21* Creat-1.1 Na-137 
K-5.0 Cl-100 HCO3-23 AnGap-14
___ 06:45AM BLOOD Glucose-84 UreaN-11 Creat-0.8 Na-143 
K-4.2 Cl-108 HCO3-24 AnGap-11
___ 01:46PM BLOOD ALT-35 AST-39 AlkPhos-50 TotBili-0.5
___ 06:45AM BLOOD ALT-20 AST-15 LD(LDH)-112 AlkPhos-36* 
TotBili-0.3
___ 06:45AM BLOOD Albumin-3.1* Calcium-8.0* Phos-2.9 Mg-2.0
___ 06:45AM BLOOD Cortsol-2.5
___ 05:56PM BLOOD CRP-147.3*
___ 02:00PM BLOOD Lactate-1.3

  
CT ABD & PELVIS WITH CONTRAST Study Date of ___ 9:50 ___ 
IMPRESSION:  
  
1. Mild inflammatory changes involving the cecum and ascending 
colon and the rectum. 
  
2. Moderate gastric distension. Possible inflammatory change at 
the pylorus. 
  
3. Findings suggest mild sacroiliitis. 

 
Brief Hospital Course:
A&P: Mr. ___ is a ___ y/o male with hx of pituitary
microadenoma, hyperprolactinemia, hypogonadotropic
hypogonadism, anxiety, depression, chronic low back pain and a
recent hospitalization at ___ for HA, fever, and diarrhea who
had returned to his usual state of health prior to abrupt
recurrence of these symptoms two days ago.  Presents to the ED
primarily with ongoing diarrhea and RLQ pain, with resolving
generalized headache and malaise and found to have C. diff.  

# Hypotension: in ED BPs as low as ___ (MAPs ___ during my
exam; was completely asymptomatic and mentating normally at that
time.  He received 2 liters of IVF as well as Cipro/flagyl in 
ED.  There was concern for adrenal insufficiency, but he was 
able to have normal pressures without the need for stress dose 
steroids.  There was no evidence of blood or urine infection, 
though final results were pending at the time of this writing.  

#C. diff colitis - he was started on Vancomycin 125mg PO q6 on 
___ ___.  This will continue for a total of 14 days for severe 
infection.  He was counseled not to use Imodium and that 
symptoms can persist for days.  He should adhere to strict hand 
washing as well as should those around him.  His CT showed 
colonic inflammation.  

# ___: Cr 1.1 (up from baseline of 0.7), suspect
hypovolemic/pre-renal ___ and improved with IVF.  

# Coagulopathy (INR 1.4)
- Last hospitalization, he arrived and had INR of 1.5, given
Vitamin K and INR came down to 1.2, now just 2 weeks later his
INR is back up to 1.4.  This is likely in the setting of poor PO 
intacke given his concurrent low Albumin of 3.1.  He was given a 
repeat dose of Vitamin K 10mg IV and can discuss this issue as 
an outpatient.  

# Headache: mild, improved w/ Tylenol and NSAIDs and in the 
setting of acute illness.  There are no alarm features and the 
patient states that it is improving.  

# Pituitary microadenoma
  # Hyperprolactinemia
  # Hypogonadotropic hypogonadism -continued home meds

# Depression: continue home Sertraline 
# Anxiety: patient recently stopped Risperidone (~3 weeks ago)
# Insomnia: continue home lorazepam and trazodone (takes these
every night for sleep)

#Incidental finding of mild inflammation in SI joint - PCP can 
discuss this if he were to develop symptoms.  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Sertraline 100 mg PO DAILY 
2. TraZODone 100 mg PO QHS:PRN insomnia 
3. cabergoline 0.25 mg oral 2X/WEEK (MO,TH) 
4. clomiPHENE citrate 25 mg oral 3X/WEEK 
5. Pravastatin 40 mg PO QPM 
6. LORazepam 1 mg PO QHS:PRN sleep 
7. Gabapentin 100 mg PO QHS 
8. Aspirin 81 mg PO DAILY 
9. Acetaminophen 325-650 mg PO Q6H:PRN pain/headache 
10. Ibuprofen 400 mg PO Q8H:PRN pain/headache 
11. Multivitamins W/minerals 1 TAB PO DAILY 

 
Discharge Medications:
1.  Vancomycin Oral Liquid ___ mg PO Q6H 
RX *vancomycin 125 mg 1 capsule(s) by mouth every six (6) hours 
Disp #*56 Capsule Refills:*0 
2.  Acetaminophen 325-650 mg PO Q6H:PRN pain/headache  
3.  Aspirin 81 mg PO DAILY  
4.  cabergoline 0.25 mg oral 2X/WEEK (MO,TH)  
5.  clomiPHENE citrate 25 mg oral 3X/WEEK  
6.  Gabapentin 100 mg PO QHS  
7.  Ibuprofen 400 mg PO Q8H:PRN pain/headache  
8.  LORazepam 1 mg PO QHS:PRN sleep  
9.  Multivitamins W/minerals 1 TAB PO DAILY  
10.  Pravastatin 40 mg PO QPM  
11.  Sertraline 100 mg PO DAILY  
12.  TraZODone 100 mg PO QHS:PRN insomnia  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
C. diff colitis 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital because of diarrhea and found 
to have an infection called C. diff.  You will need to continue 
your Vancomycin until the end-date.  It was a pleasure to 
participate in your care, 
Your ___ Team 
 
Followup Instructions:
___